US07026352B1
(8E,12E,14E)-7-Acetoxy-3,6-dihydroxy-21-(toluene-4-sulfonyloxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (Compound B17)
A solution of (8E,12E,14E)-7-acetoxy-3,6,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (52.3 mg, 97.4 μmol) in dichloromethane (1.0 mL) was ice-cooled, and dimethylaminopyridine (37.4 mg, 306.1 μmol) was added thereto. After stirring for about 30 min., tosyl chloride (28.6 mg, 150.0 μmol) was added and the temperature was raised to room temperature. After stirring for 4 hours, the reaction mixture was diluted with ethyl acetate (10 mL), and washed with distilled water (2 mL) for two times and with brine (2 mL). The organic layer obtained was dried over anhydrous sodium sulfate, filtered and then concentrated. The crude product was purified by medium pressure column chromatography (toluene:acetone=10:1, MERCK Lobar, LiChroprepSi 60, 4 ml/min.) and a thin layer chromatography (MERCK Silicagel 60 F254, 0.5 mm, developing solution; ethyl acetate) to obtain the title Compound (8.8 mg, 12.7 μmol, 13.0%) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-3,6,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 97.4 μmol, 52.3 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C)O)(C)O | C30H48O8
reactant | dimethylaminopyridine | 306.1 μmol, 37.4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tosyl chloride | 150.0 μmol, 28.6 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-Acetoxy-3,6-dihydroxy-21-(toluene-4-sulfonyloxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 12.7 μmol, 8.8 mg, 13.0% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OS(=O)(=O)C2=CC=C(C=C2)C)C)O1)C)\C)O)(C)O | C37H54O10S
